US07723321B2
STEP1-1: 3-(2-Fluoro-5-methylphenoxy)propanoic Acid
To a solution of sodium hydroxide (3.2 g, 79 mmol) in water (16 mL) was added 2-fluoro-5-methylphenol (5.0 g, 40 mmol) at room temperature. After the solution was stirred for 5 minutes, 3-iodopropionic acid (7.9 g, 40 mmol) was added to the pale yellow solution, and the mixture was refluxed with stirring for 18 hours. The mixture was cooled to room temperature, poured into 2M hydrochloric acid aqueous solution (100 mL) at 0° C., and extracted with ethyl acetate (60 mL×2). The combined extracts were washed with brine, dried over magnesium sulfate, and concentrated in vacuum. The residue was purified by column chromatography on silica gel (gradient elution from hexane/ethyl acetate 3:1 to ethyl acetate only). The resulted pale yellow solid was triturated with hexane, collected by filtration, and dried in vacuum to afford the title compound as a pale yellow solid (2.45 g, 31%).

reactant | sodium hydroxide | 79 mmol, 3.2 g | [OH-].[Na+]
reactant | 2-fluoro-5-methylphenol | 40 mmol, 5.0 g | FC1=C(C=C(C=C1)C)O | C7H7FO
reactant | 3-iodopropionic acid | 40 mmol, 7.9 g | ICCC(=O)O | C3H5IO2
reactant | hydrochloric acid | 2M, 100 mL | Cl | ClH
solvent | water | 16 mL | O | H2O
product | 3-(2-Fluoro-5-methylphenoxy)propanoic Acid | 2.45 g, 31% | FC1=C(OCCC(=O)O)C=C(C=C1)C | C10H11FO3
